US07981903B2
To a solution of 3,4-difluoro aniline (10 g, 77.5 mmol, Aldrich) in tetrahydrofuran (300 mL) was added Boc2O (20.3 g, 93 mmol, 1.2 equiv, Aldrich). The resulting solution was stirred at 70° C. for 2 days, at which time additional Boc2O (20.3 g, 93 mmol, 1.2 equiv) was added and the resulting reaction is maintained at 70° C. for an additional 2 days. After 4 days of heating, the tetrahydrofuran was removed under reduced pressure and the product recrystallized from hexanes to afford 1,1-dimethylethyl (3,4-difluorophenyl)carbamate cleanly as a white solid (16.1 g, 70 mmol, 91% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.48 (s, 9 H), 6.42 (s, 1 H), 6.87 (d, J=8 Hz, 1H), 7.02 (q, J=8.97 Hz, 1 H), 7.40 (s, 1 H).

reactant | 3,4-difluoro aniline | 77.5 mmol, 10 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | Boc2O | 93 mmol, 20.3 g, 1.2 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 93 mmol, 20.3 g, 1.2 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl (3,4-difluorophenyl)carbamate | FC=1C=C(C=CC1F)NC(OC(C)(C)C)=O | C11H13F2NO2
